US04628057
(2) (3RS)-1,2,3,4 -Tetrahydro-β-carboline-3-carboxamide
(3RS)-2-Benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carboline-3-carboxamide (2.47 g) is dissolved in ethanol (350 ml) and thereto are added acetic acid (0.02 ml) and 10% Pd-C (1.0 g). The mixture is subjected to catalytic reduction under atmospheric pressure. After the reaction, the catalyst is removed by filtration and washed with ethanol. The filtrate and the washing liquid are combined and distilled to remove the solvent. The residue is crystallized from ether to give the title compound (1.21 g, 79%), m.p. 212°-216° C.

reactant | (3RS)-2-Benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carboline-3-carboxamide | 2.47 g | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N | C20H19N3O3
reactant | acetic acid | 0.02 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | Pd-C | 1.0 g | [Pd] | Pd
product | (3RS)-1,2,3,4 -Tetrahydro-β-carboline-3-carboxamide | 1.21 g, 79% | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)N | C12H13N3O
